US07648989B2
Preparation of 2-[2-(4-Methyl-piperazin-1-yl)-pyridin-4-yl]-acetamide
[2-(4-Methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid tert-butyl ester (95 mg, 0.33 mmol) is dissolved in a mixture of TFA and CH2Cl2 (5 ml/5 ml) and stirred at RT. After 1 h at RT, TLC analysis indicated complete conversion of starting material. The solvent is removed by rotary evaporation, and replaced by dry DMF (1.5 ml). Under an atmosphere of argon, carbonyl diimidazole (58 mg, 0.36 mmol) is added. After 20 minutes at RT, TLC analysis indicated complete conversion of the carboxylic acid. An aqueous solution of ammonia (25%, 6 ml) is added at RT. After 15 minutes at RT, solvents are removed under high vacuum. The residue is dissolved in CH2Cl2/MeOH (9:1) and purified by FCC (CH2Cl2/MeOH, slow gradient from 95:5 to 40:60) to yield the title compound. 1H NMR (d4-MeOD, 400 MHz): δ 2.35 (s, 3H), 2.56 (m, 4H), 3.46 (s, 2H), 3.54 (m, 4H), 6.66 (d, J=6 Hz, 1H), 6.78 (s, 1H), 8.02 (d, J=6 Hz, 1H). ES+−MS: 235.3 [M+H]+.

reactant | [2-(4-Methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid tert-butyl ester | 0.33 mmol, 95 mg | C(C)(C)(C)OC(CC1=CC(=NC=C1)N1CCN(CC1)C)=O | C16H25N3O2
reactant | carbonyl diimidazole | 0.36 mmol, 58 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ammonia | 6 ml | N | H3N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-Methyl-piperazin-1-yl)-pyridin-4-yl]-acetamide | CN1CCN(CC1)C1=NC=CC(=C1)CC(=O)N | C12H18N4O
